US08034812B2
A mixture of 6-iodoimidazo[1,2-b]pyridazin-2-amine (550 mg, 2.11 mmol), tetrahydro-2H-pyran-4-carbonyl chloride (320 mg, 2.15 mmol) and N,N-dimethylacetamide (5.0 mL) was stirred at room temperature for 3 hr. The reaction mixture was poured into water, and the precipitated solid was collected by filtration, washed with water, and air-dried to give N-(6-iodoimidazo[1,2-b]pyridazin-2-yl)tetrahydro-2H-pyran-4-carboxamide as a white powder.

reactant | 6-iodoimidazo[1,2-b]pyridazin-2-amine | 2.11 mmol, 550 mg | IC=1C=CC=2N(N1)C=C(N2)N | C6H5IN4
reactant | tetrahydro-2H-pyran-4-carbonyl chloride | 2.15 mmol, 320 mg | O1CCC(CC1)C(=O)Cl | C6H9ClO2
reactant | N,N-dimethylacetamide | 5.0 mL | CN(C(C)=O)C | C4H9NO
solvent | water | O | H2O
product | N-(6-iodoimidazo[1,2-b]pyridazin-2-yl)tetrahydro-2H-pyran-4-carboxamide | IC=1C=CC=2N(N1)C=C(N2)NC(=O)C2CCOCC2 | C12H13IN4O2
